US05596111
To a 1000-ml three-necked flask equipped with refluxing condenser and mechanic stirrer, erucic acid (101.4 g, 0,300 mol; recrystallized with 95% ethanol), tert-butanol (600 ml; freshly distilled), H2O2 (20.4 ml 50% aqueous solution, 0.3 mol) and tungstic acid (7.47 g, 0.03 mol). The mixture was refluxed for 70 hours while a stream of oxygen gas was bubbled through the solution. The reaction was monitored with TLC (ethyl acetate/hexane). After the reaction was completed, the yellow catalyst was filtered off and washed with hot methanol (2×20 ml) at once. The catalyst was recovered (about 100%). Most of the solvent in the mother liquid was removed under reduced pressure. The residue was then held at about -5° C. for several hours. Once a white solid appeared, hexane (100 ml) was added. The product brassylic acid was obtained by filtration (63.2 g, 76%). The brassylic acid was purified by recrystallization in methanol. mp: 110°-114° C. The stoichiometry of the reaction dictates that the oxidative cleavage of a 1,2-disubstituted olefinic double bond results in the formation of equal amounts of pelargonic acid and brassylic acid. Of the two acids formed, the generation of brassylic acid was monitored simply due to the relative ease of the analysis.

reactant | erucic acid | 0,300 mol, 101.4 g | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)O | C22H42O2
reactant | H2O2 | 0.3 mol, 20.4 ml | OO | H2O2
reactant | oxygen | O=O | O2
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
catalyst | tungstic acid | 0.03 mol, 7.47 g | O[W](=O)(=O)O
product | brassylic acid | C(CCCCCCCCCCCC(=O)O)(=O)O | C13H24O4
